US06831080B2
Preparation of (±)-3-(2-fluoro-phenyl)-N-[2,2,2-trifluoro-1-(3-morpholin-4-yl-phenyl)ethyl]acrylamide
A mixture of 2-fluorocinnamic acid (33 mg), 2,2,2-trifluoro-1-(3-morpholin-4-yl-phenyl)-ethylamine, Preparation 23 (52 mg), DMAP (24 mg), EDC.HCl (80 mg), and Et3N (80 mg) in CH2Cl2 (4 mL) was stirred for 16 hours. Purification by flash chromatography over silica gel (elution with 50% ethyl acetate in hexane) gave 65 mg of the title compound as a solid.

reactant | 2-fluorocinnamic acid | 33 mg | FC1=C(C=CC(=O)O)C=CC=C1 | C9H7FO2
reactant | 2,2,2-trifluoro-1-(3-morpholin-4-yl-phenyl)-ethylamine | FC(C(C1=CC(=CC=C1)N1CCOCC1)N)(F)F | C12H15F3N2O
reactant | EDC.HCl | 80 mg | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 80 mg | CCN(CC)CC | C6H15N
catalyst | DMAP | 24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-(2-fluoro-phenyl)-N-[2,2,2-trifluoro-1-(3-morpholin-4-yl-phenyl)ethyl]acrylamide | 65 mg | FC1=C(C=CC=C1)C=CC(=O)NC(C(F)(F)F)C1=CC(=CC=C1)N1CCOCC1 | C21H20F4N2O2
